US09301951B2
(S)-2-(2-(3-(2,5,8,11,14,17,20,23,26-nonaoxaheptacosyl)benzamido)-5-cyclobutoxyphenyl)-N-(1,2,3,4-tetrahydronaphthalen-1-yl)isonicotinamide
This compound was prepared according to the procedure described for the synthesis of (S)-tert-butyl 16-(3-((4-cyclobutoxy-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-4,7,10,13-tetraoxahexadecan-1-oate Example 284, using intermediate 3-(2,5,8,11,14,17,20,23,26-nonaoxaheptacosyl)benzoic acid in place of 3-(2,2-dimethyl-4-oxo-3,7,10,13,16-pentaoxanonadecan-19-yl)benzoic acid. MS (ES, m/z): 914.6 [M+H]+.

reactant | (S)-tert-butyl 16-(3-((4-cyclobutoxy-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-4,7,10,13-tetraoxahexadecan-1-oate | C1(CCC1)OC1=CC(=C(C=C1)NC(=O)C=1C=C(C=CC1)CCCOCCOCCOCCOCCC(=O)OC(C)(C)C)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O | C49H61N3O9
reactant | 3-(2,5,8,11,14,17,20,23,26-nonaoxaheptacosyl)benzoic acid | C(OCCOCCOCCOCCOCCOCCOCCOCCOC)C=1C=C(C(=O)O)C=CC1 | C25H42O11
product | (S)-2-(2-(3-(2,5,8,11,14,17,20,23,26-nonaoxaheptacosyl)benzamido)-5-cyclobutoxyphenyl)-N-(1,2,3,4-tetrahydronaphthalen-1-yl)isonicotinamide | C(OCCOCCOCCOCCOCCOCCOCCOCCOC)C=1C=C(C(=O)NC2=C(C=C(C=C2)OC2CCC2)C=2C=C(C(=O)N[C@H]3CCCC4=CC=CC=C34)C=CN2)C=CC1 | C51H67N3O12
